US04126611
A slurry of 3.0 g (0.0152 mole) of powdered 2-phenylcyclopentylamine hydrochloride and 3 ml of 5,O-dimethylbutyrolactim is allowed to stand at room temperature for 6 days with occasional stirring during which time sufficient ethanol is added to maintain the slurry. The slurry is then cooled to -20° C., and after about four hours a precipitate forms. The precipitate is collected and recrystallized several times from acetone-methanol to give 5-methyl-2-[(2-phenylcyclopentyl)imino]pyrrolidine hydrochloride, M.P. 175°-178° C.

reactant | 2-phenylcyclopentylamine hydrochloride | 0.0152 mole, 3.0 g | Cl.C1(=CC=CC=C1)C1C(CCC1)N
reactant | ethanol | C(C)O | C2H6O
product | 5-methyl-2-[(2-phenylcyclopentyl)imino]pyrrolidine hydrochloride | Cl.CC1CCC(N1)=NC1C(CCC1)C1=CC=CC=C1 | InChI=1S/C16H22N2.ClH/c1-12-10-11-16(17-12)18-15-9-5-8-14(15)13-6-3-2-4-7-13;/h2-4,6-7,12,14-15H,5,8-11H2,1H3,(H,17,18);1H
